US04730006
2,2-difluoro-5-methoxy-1-pentanal hydrate (33)
A solution of dry dimethylsulfoxide (3 g, 38 mmoles) in dry dichloromethane (15 ml) is slowly added to a solution of oxalyl chloride (2.4 g, 19 mmoles) in dichloromethane (15 ml), kept under nitrogen and cooled to -60° C. Stirring is continued for 15 min. at -60° C. and followed by addition of 2,2-difluoro-1-hydroxy-5-methoxypentane (2.7 g, 17.5 mmoles) in dichloromethane (15 ml). The reaction mixture is stirred for 11/2 hours at -60° C., triethylamine (8.4 ml, 114 mmoles) in dichloromethane (15 ml) is slowly added, and the cooling bath is removed. The reaction mixture is hydrolyzed with brine and diluted with dichloromethane. The organic phase is then washed successively with 2N HCl containing some sodium chloride, and brine. Usual work-up affords the title compound (1.59 g, 53%) which is used for the next step without further purification.

reactant | dimethylsulfoxide | 38 mmoles, 3 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 19 mmoles, 2.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,2-difluoro-1-hydroxy-5-methoxypentane | 17.5 mmoles, 2.7 g | FC(CO)(CCCOC)F | C6H12F2O2
reactant | triethylamine | 114 mmoles, 8.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2,2-difluoro-5-methoxy-1-pentanal hydrate | 1.59 g, 53% | O.FC(C=O)(CCCOC)F | InChI=1S/C6H10F2O2.H2O/c1-10-4-2-3-6(7,8)5-9;/h5H,2-4H2,1H3;1H2
